US04397677
Preparation of N-ethyl-(2-methyl-1,3-dioxolane-2-yl)methyl-4-t-butyl-2,6-dinitroaniline
4-t-butyl-2,6-dinitro chlorobenzene (2.5 grams; 0.01 mole), 2-(ethylamino)methyl-2-methyl-1,3-dioxolane (2.9 grams; 0.02 mole) and toluene (50 ml) were placed into a glass reaction vessel equipped with a stirrer, oil bath and thermometer and heated to 70° C. with stirrer for 30 hours. Ethanol (50 ml) was added to the cooled mixture and the solid filtered therefrom. The filtrate was evaporated to a volume of approximately 10 ml. It was then chromatographed on silica gel to yield the desired product (2.0 grams). The product was analyzed for C17H25N3O6 :

reactant | 4-t-butyl-2,6-dinitro chlorobenzene | 0.01 mole, 2.5 grams | C(C)(C)(C)C1=CC(=C(C(=C1)[N+](=O)[O-])Cl)[N+](=O)[O-] | C10H11ClN2O4
reactant | 2-(ethylamino)methyl-2-methyl-1,3-dioxolane | 0.02 mole, 2.9 grams | C(C)NCC1(OCCO1)C | C7H15NO2
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethanol | 50 ml | C(C)O | C2H6O
product | N-ethyl-(2-methyl-1,3-dioxolane-2-yl)methyl-4-t-butyl-2,6-dinitroaniline | 2.0 grams | C(C)N(C1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)[N+](=O)[O-])CC1(OCCO1)C | C17H25N3O6
